* File: NAND2D4.cdl.pex
* Created: Mon Dec 22 20:55:38 2025
* Program "Calibre xRC"
* Version "v2023.1_18.8"
* Nominal Temperature: 25C
* Circuit Temperature: 25C
* 
.subckt PM_NAND2D4%net14 8 22 23 37 38 48 49 59 60 71 76 77 82 83 88 94 95 100
+ 101 106 112 118 119 124 125 130 136 142 143 148 149 154 160 166 205 206 207
+ 208 209 210 211 212 213 214 215 216 217 218 219 220 221 223 225 227 229 231
+ 233
r212 243 245 0.413564
r213 240 243 0.00212629
r214 235 238 0.52811
r215 233 243 0.320546
r216 233 238 1.84026
r217 173 240 1.5625
r218 170 240 0.520833
r219 165 166 0.793634
r220 165 220 0.793634
r221 161 166 0.793634
r222 159 160 0.793634
r223 159 219 0.793634
r224 155 161 0.812477
r225 155 160 0.793634
r226 153 154 0.793634
r227 153 218 0.793634
r228 149 155 0.812477
r229 149 154 0.793634
r230 147 148 0.793634
r231 147 217 0.793634
r232 143 149 0.812477
r233 143 148 0.793634
r234 141 142 0.793634
r235 141 216 0.793634
r236 137 143 0.812477
r237 137 142 0.793634
r238 135 136 0.793634
r239 135 215 0.793634
r240 131 137 0.812477
r241 131 136 0.793634
r242 129 130 0.793634
r243 129 214 0.793634
r244 125 131 0.812477
r245 125 130 0.793634
r246 123 124 0.793634
r247 123 213 0.793634
r248 119 125 0.812477
r249 119 124 0.793634
r250 117 118 0.793634
r251 117 212 0.793634
r252 113 119 0.812477
r253 113 118 0.793634
r254 111 112 0.793634
r255 111 211 0.793634
r256 107 113 0.812477
r257 107 112 0.793634
r258 105 106 0.793634
r259 105 210 0.793634
r260 101 107 0.812477
r261 101 106 0.793634
r262 99 100 0.793634
r263 99 209 0.793634
r264 95 101 0.812477
r265 95 100 0.793634
r266 93 94 0.793634
r267 93 208 0.793634
r268 89 95 0.812477
r269 89 94 0.793634
r270 87 88 0.793634
r271 87 207 0.793634
r272 83 89 0.812477
r273 83 173 0.375771
r274 83 88 0.793634
r275 81 82 0.793634
r276 81 206 0.793634
r277 77 173 0.436706
r278 77 170 0.0914037
r279 77 82 0.793634
r280 75 76 0.793634
r281 75 205 0.793634
r282 71 170 0.721073
r283 71 76 0.793634
r284 67 221 15.5816
r285 60 231 35.8101
r286 59 60 35.8101
r287 56 59 35.8101
r288 55 70 6.54082
r289 54 56 7.39434
r290 54 55 26.749
r291 49 229 35.8101
r292 48 49 35.8101
r293 45 70 0.652933
r294 45 48 35.8101
r295 44 69 6.54082
r296 43 70 6.54082
r297 43 44 26.749
r298 38 227 35.8101
r299 37 38 35.8101
r300 34 69 0.652933
r301 34 37 35.8101
r302 33 245 1.5625
r303 31 245 0.520833
r304 31 33 13.9095
r305 29 31 1.23045
r306 28 69 6.54082
r307 28 33 11.6091
r308 23 225 35.8101
r309 22 23 35.8101
r310 19 29 7.39434
r311 19 22 35.8101
r312 17 238 1.5625
r313 15 235 0.520833
r314 15 17 16.9695
r315 13 68 7.6338
r316 13 15 2.93704
r317 8 68 0.0725775
r318 8 223 26.7597
r319 7 67 5.56955
r320 6 68 7.6338
r321 6 7 32.5685
.ends

.subckt PM_NAND2D4%VSS 1 38 39 48 49 57 58 66 67 75 76 84 85 93 94 102 103 158
+ 159 160 161 162 163 165 166 167 169 171 173 175 177 179 181
r78 190 192 0.57564
r79 188 190 1.30183
r80 184 187 0.57564
r81 182 188 0.247405
r82 182 187 0.340956
r83 152 187 1.5625
r84 149 184 0.520833
r85 140 152 0.06642
r86 140 149 0.50922
r87 140 161 1.3829
r88 136 149 0.37638
r89 136 160 1.3829
r90 132 136 0.8856
r91 132 159 1.3829
r92 128 132 0.8856
r93 128 158 1.3829
r94 115 166 1.83336
r95 113 192 1.5625
r96 113 190 0.520833
r97 113 115 12.1185
r98 111 113 2.97004
r99 111 165 0.421672
r100 111 165 11.1793
r101 103 181 24.7155
r102 102 103 24.7142
r103 99 127 3.03423
r104 99 102 24.7142
r105 98 126 5.52744
r106 97 127 3.89768
r107 97 98 21.7558
r108 94 179 16.477
r109 93 94 16.4761
r110 90 126 1.43649
r111 90 93 16.4761
r112 89 125 5.52744
r113 88 126 5.52744
r114 88 89 21.7558
r115 85 177 16.477
r116 84 85 16.4761
r117 81 125 1.43649
r118 81 84 16.4761
r119 80 124 5.52744
r120 79 125 5.52744
r121 79 80 21.7558
r122 76 175 16.477
r123 75 76 16.4761
r124 72 124 1.43649
r125 72 75 16.4761
r126 71 123 5.52744
r127 70 124 5.52744
r128 70 71 21.7558
r129 67 173 16.477
r130 66 67 16.4761
r131 63 123 1.43649
r132 63 66 16.4761
r133 62 122 5.52744
r134 61 123 5.52744
r135 61 62 21.7558
r136 58 171 16.477
r137 57 58 16.4761
r138 54 122 1.43649
r139 54 57 16.4761
r140 53 121 5.52744
r141 52 122 5.52744
r142 52 53 21.7558
r143 49 169 16.477
r144 48 49 16.4761
r145 45 121 1.43649
r146 45 48 16.4761
r147 43 120 5.52744
r148 42 121 5.52744
r149 39 167 16.477
r150 38 39 16.4761
r151 35 120 1.43649
r152 35 38 16.4761
r153 34 119 5.52744
r154 33 120 5.52744
r155 33 34 21.7558
r156 30 115 6.23882
r157 30 166 28.0215
r158 29 119 1.43649
r159 29 166 33.9391
r160 25 111 11.1793
r161 25 165 12.8747
r162 21 165 8.02223
r163 20 107 9.45053
r164 19 21 7.29435
r165 19 20 43.8037
r166 14 107 1.07853
r167 14 163 27.1948
r168 12 107 9.45053
r169 12 13 43.8037
r170 8 13 7.49778
r171 8 162 40.7922
r172 1 42 11.9657
r173 1 43 9.79012
.ends

.subckt PM_NAND2D4%OUT 1 5 6 16 17 27 28 38 39 46 47 53 55 60 61 62 69 71 76 77
+ 79 80 92 93 100 102 107 108 112 113 118 130 131 139 141 146 147 151 152 178
+ 180 182 184 186 188 190 192 194 195 198 199 202 203 206 207
r186 176 202 2.60416
r187 170 194 2.60416
r188 165 190 2.60416
r189 152 207 42.2211
r190 151 152 42.2207
r191 148 151 42.2207
r192 146 147 16.6793
r193 146 206 16.6793
r194 141 147 16.6798
r195 140 176 13.159
r196 139 141 8.46397
r197 139 140 44.3109
r198 137 177 8.95097
r199 136 148 8.19075
r200 131 203 42.2211
r201 130 131 42.2207
r202 127 177 0.822863
r203 127 130 42.2207
r204 121 173 8.95097
r205 120 177 8.95097
r206 120 121 40.5388
r207 119 172 9.53916
r208 118 176 13.159
r209 118 119 44.3997
r210 113 199 42.2211
r211 112 113 42.2207
r212 109 173 0.822863
r213 109 112 42.2207
r214 107 108 16.6793
r215 107 198 16.6793
r216 102 172 1.12241
r217 102 108 16.6798
r218 101 170 13.159
r219 100 172 9.53916
r220 100 101 44.3109
r221 99 171 8.95097
r222 98 173 8.95097
r223 98 99 40.5388
r224 93 195 42.2211
r225 92 93 42.2207
r226 89 171 0.822863
r227 89 92 42.2207
r228 83 167 8.95097
r229 82 171 8.95097
r230 82 83 40.5388
r231 81 166 13.3199
r232 80 170 13.159
r233 80 81 44.3997
r234 79 167 0.822863
r235 78 166 3.19811
r236 78 79 21.5383
r237 76 77 16.6793
r238 76 192 16.6793
r239 71 166 3.19811
r240 71 77 16.6798
r241 70 165 13.159
r242 69 166 13.3199
r243 69 70 44.3109
r244 63 162 9.53916
r245 62 165 13.159
r246 62 63 44.3997
r247 60 61 16.6793
r248 60 188 16.6793
r249 55 162 1.12241
r250 55 61 16.6798
r251 54 186 10.5632
r252 53 162 9.53916
r253 53 54 44.3109
r254 46 47 78.3745
r255 45 159 8.95097
r256 45 46 78.3745
r257 44 167 8.95097
r258 44 47 78.3761
r259 39 184 42.2211
r260 38 39 42.2207
r261 35 159 0.822863
r262 35 38 42.2207
r263 34 158 8.95097
r264 33 159 8.95097
r265 33 34 40.5388
r266 28 182 42.2211
r267 27 28 42.2207
r268 24 158 0.822863
r269 24 27 42.2207
r270 23 157 8.95097
r271 22 158 8.95097
r272 22 23 40.5388
r273 17 180 42.2211
r274 16 17 42.2207
r275 13 157 0.822863
r276 13 16 42.2207
r277 11 157 8.95097
r278 11 12 40.5388
r279 6 178 42.2211
r280 5 6 42.2207
r281 2 12 8.19075
r282 2 5 42.2207
r283 1 136 17.4317
r284 1 137 23.1071
.ends

.subckt PM_NAND2D4%VDD 1 4 11 14 21 22 25 32 33 36 43 44 47 54 55 58 65 66 69 76
+ 77 80 87 88 91 98 99 102 109 110 113 120 121 124 131 132 135 142 158 159 161
+ 163 165 167 169 171 173 175 177 179 181
r181 141 142 52.214
r182 141 181 52.214
r183 135 157 3.03423
r184 135 142 52.214
r185 134 156 5.52744
r186 133 157 3.89768
r187 133 134 21.7558
r188 131 132 34.8093
r189 131 179 34.8093
r190 124 156 1.43649
r191 124 132 34.8093
r192 123 155 5.52744
r193 122 156 5.52744
r194 122 123 21.7558
r195 120 121 34.8093
r196 120 177 34.8093
r197 113 155 1.43649
r198 113 121 34.8093
r199 112 154 5.52744
r200 111 155 5.52744
r201 111 112 21.7558
r202 109 110 34.8093
r203 109 175 34.8093
r204 102 154 1.43649
r205 102 110 34.8093
r206 101 153 5.52744
r207 100 154 5.52744
r208 100 101 21.7558
r209 98 99 34.8093
r210 98 173 34.8093
r211 91 153 1.43649
r212 91 99 34.8093
r213 90 152 5.52744
r214 89 153 5.52744
r215 89 90 21.7558
r216 87 88 34.8093
r217 87 171 34.8093
r218 80 152 1.43649
r219 80 88 34.8093
r220 78 152 5.52744
r221 78 79 21.7558
r222 76 77 34.8093
r223 76 169 34.8093
r224 69 77 34.8093
r225 68 150 5.52744
r226 67 68 21.7558
r227 65 66 34.8093
r228 65 167 34.8093
r229 58 150 1.43649
r230 58 66 34.8093
r231 57 149 5.52744
r232 56 150 5.52744
r233 56 57 21.7558
r234 54 55 34.8093
r235 54 165 34.8093
r236 47 149 1.43649
r237 47 55 34.8093
r238 46 148 5.52744
r239 45 149 5.52744
r240 45 46 21.7558
r241 43 44 34.8093
r242 43 163 34.8093
r243 36 148 1.43649
r244 36 44 34.8093
r245 35 147 5.52744
r246 34 148 5.52744
r247 34 35 21.7558
r248 32 33 34.8093
r249 32 161 34.8093
r250 25 147 1.43649
r251 25 33 34.8093
r252 24 146 5.52744
r253 23 147 5.52744
r254 23 24 21.7558
r255 21 22 34.8093
r256 21 159 34.8093
r257 14 146 1.43649
r258 14 22 34.8093
r259 13 145 3.89768
r260 12 146 5.52744
r261 12 13 21.7558
r262 10 11 52.214
r263 10 158 52.214
r264 4 145 3.03423
r265 4 11 52.214
r266 1 69 1.43649
r267 1 67 5.52744
r268 1 79 5.52744
.ends

.subckt PM_NAND2D4%IN1 19 22 25 26 28 30 33 34 36 37 38 41 42 44 50 52 58 60 62
+ 65 66 68 69 70 73 74 76 82 84 90 92 94 97 98 100 101 102 105 106 108 114 116
+ 156 157 158 159 160 161 162 163 164 165 166 167 168
r169 176 178 0.2952
r170 170 173 0.2952
r171 168 176 0.15498
r172 168 173 0.14022
r173 115 116 1.22053
r174 115 167 1.22053
r175 114 167 1.22056
r176 113 114 1.22053
r177 110 116 1.22056
r178 109 113 1.22053
r179 107 108 1.22053
r180 107 166 1.22053
r181 106 166 1.22056
r182 105 106 1.22053
r183 102 110 1.1808
r184 102 108 1.22056
r185 101 109 1.1808
r186 101 105 1.22053
r187 99 100 1.22053
r188 99 165 1.22053
r189 98 165 1.22056
r190 97 98 1.22053
r191 94 102 1.1808
r192 94 100 1.22056
r193 93 101 1.1808
r194 93 97 1.22053
r195 91 92 1.22053
r196 91 164 1.22053
r197 90 164 1.22056
r198 89 90 1.22053
r199 86 94 1.1808
r200 86 92 1.22056
r201 85 93 1.1808
r202 85 89 1.22053
r203 83 84 1.22053
r204 83 163 1.22053
r205 82 163 1.22056
r206 81 82 1.22053
r207 78 86 1.1808
r208 78 84 1.22056
r209 77 85 1.1808
r210 77 81 1.22053
r211 75 76 1.22053
r212 75 162 1.22053
r213 74 162 1.22056
r214 73 74 1.22053
r215 70 78 1.1808
r216 70 76 1.22056
r217 69 77 1.1808
r218 69 73 1.22053
r219 67 68 1.22053
r220 67 161 1.22053
r221 66 161 1.22056
r222 65 66 1.22053
r223 62 70 1.1808
r224 62 68 1.22056
r225 61 69 1.1808
r226 61 65 1.22053
r227 59 60 1.22053
r228 59 160 1.22053
r229 58 160 1.22056
r230 57 58 1.22053
r231 54 62 1.1808
r232 54 60 1.22056
r233 53 61 1.1808
r234 53 57 1.22053
r235 51 52 1.22053
r236 51 159 1.22053
r237 50 159 1.22056
r238 49 50 1.22053
r239 46 54 1.1808
r240 46 52 1.22056
r241 45 53 1.1808
r242 45 49 1.22053
r243 43 44 1.22053
r244 43 158 1.22053
r245 42 158 1.22056
r246 41 42 1.22053
r247 38 46 1.1808
r248 38 44 1.22056
r249 37 45 1.1808
r250 37 41 1.22053
r251 35 36 1.22053
r252 35 157 1.22053
r253 34 157 1.22056
r254 33 34 1.22053
r255 30 38 1.1808
r256 30 36 1.22056
r257 29 37 1.1808
r258 29 33 1.22053
r259 27 28 1.22053
r260 27 156 1.22053
r261 26 156 1.22056
r262 25 26 1.22053
r263 22 30 1.1808
r264 22 28 1.22056
r265 21 29 1.1808
r266 21 25 1.22053
r267 19 22 0.38376
r268 19 20 0.79704
r269 17 21 0.38376
r270 17 18 0.79704
r271 16 117 1.83024
r272 15 16 1.83024
r273 13 18 0.247405
r274 13 15 1.83024
r275 11 12 0.772435
r276 10 178 1
r277 10 11 0.772435
r278 8 176 1
r279 8 10 0.2952
r280 6 173 1
r281 6 8 0.2952
r282 4 170 1
r283 4 6 0.2952
r284 2 20 0.284958
r285 2 12 0.77245
r286 1 117 0.332026
r287 1 4 0.17712
.ends

.subckt PM_NAND2D4%IN2 2 5 6 8 10 13 14 16 17 18 21 22 24 30 32 38 40 42 45 46
+ 48 49 50 53 54 56 62 64 70 72 74 77 78 80 81 82 85 86 88 94 96 156 157 158 159
+ 160 161 162 163 164 165 166 167 168
r168 176 178 0.2952
r169 170 173 0.2952
r170 168 176 0.15498
r171 168 173 0.14022
r172 115 116 0.77735
r173 114 178 1
r174 114 115 0.77735
r175 112 176 1
r176 112 114 0.2952
r177 110 173 1
r178 110 112 0.2952
r179 108 170 1
r180 108 110 0.2952
r181 106 116 0.77738
r182 105 143 0.332026
r183 105 108 0.17712
r184 104 143 1.82044
r185 103 104 1.82038
r186 101 103 1.82038
r187 99 106 0.284958
r188 99 100 0.79704
r189 97 101 0.247405
r190 97 98 0.79704
r191 95 96 1.22053
r192 95 167 1.22053
r193 94 167 1.22056
r194 93 94 1.22053
r195 90 100 0.38376
r196 90 96 1.22056
r197 89 98 0.38376
r198 89 93 1.22053
r199 87 88 1.22053
r200 87 166 1.22053
r201 86 166 1.22056
r202 85 86 1.22053
r203 82 90 1.1808
r204 82 88 1.22056
r205 81 89 1.1808
r206 81 85 1.22053
r207 79 80 1.22053
r208 79 165 1.22053
r209 78 165 1.22056
r210 77 78 1.22053
r211 74 82 1.1808
r212 74 80 1.22056
r213 73 81 1.1808
r214 73 77 1.22053
r215 71 72 1.22053
r216 71 164 1.22053
r217 70 164 1.22056
r218 69 70 1.22053
r219 66 74 1.1808
r220 66 72 1.22056
r221 65 73 1.1808
r222 65 69 1.22053
r223 63 64 1.22053
r224 63 163 1.22053
r225 62 163 1.22056
r226 61 62 1.22053
r227 58 66 1.1808
r228 58 64 1.22056
r229 57 65 1.1808
r230 57 61 1.22053
r231 55 56 1.22053
r232 55 162 1.22053
r233 54 162 1.22056
r234 53 54 1.22053
r235 50 58 1.1808
r236 50 56 1.22056
r237 49 57 1.1808
r238 49 53 1.22053
r239 47 48 1.22053
r240 47 161 1.22053
r241 46 161 1.22056
r242 45 46 1.22053
r243 42 50 1.1808
r244 42 48 1.22056
r245 41 49 1.1808
r246 41 45 1.22053
r247 39 40 1.22053
r248 39 160 1.22053
r249 38 160 1.22056
r250 37 38 1.22053
r251 34 42 1.1808
r252 34 40 1.22056
r253 33 41 1.1808
r254 33 37 1.22053
r255 31 32 1.22053
r256 31 159 1.22053
r257 30 159 1.22056
r258 29 30 1.22053
r259 26 34 1.1808
r260 26 32 1.22056
r261 25 33 1.1808
r262 25 29 1.22053
r263 23 24 1.22053
r264 23 158 1.22053
r265 22 158 1.22056
r266 21 22 1.22053
r267 18 26 1.1808
r268 18 24 1.22056
r269 17 25 1.1808
r270 17 21 1.22053
r271 15 16 1.22053
r272 15 157 1.22053
r273 14 157 1.22056
r274 13 14 1.22053
r275 10 18 1.1808
r276 10 16 1.22056
r277 9 17 1.1808
r278 9 13 1.22053
r279 7 8 1.22053
r280 7 156 1.22053
r281 6 156 1.22056
r282 5 6 1.22053
r283 2 10 1.1808
r284 2 8 1.22056
r285 1 9 1.1808
r286 1 5 1.22053
.ends

