************************************************************************
* auCdl Netlist:
* 
* Library Name:  OTFT_stdlib_cells
* Top Cell Name: NAND2D1
* View Name:     schematic
* Netlisted on:  Dec 22 20:27:40 2025
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: OTFT_stdlib_cells
* Cell Name:    NAND2D1
* View Name:    schematic
************************************************************************

.SUBCKT NAND2D1 IN1 IN2 OUT VDD VSS
*.PININFO IN1:I IN2:I VDD:I VSS:I OUT:O
MI5 VSS net14 OUT ptft W=800u L=10u
MI4 OUT IN1 VDD ptft W=800u L=10u
MI3 OUT IN2 VDD ptft W=800u L=10u
MI2 VSS VSS net14 ptft W=100u L=10u
MI1 net14 IN2 VDD ptft W=400u L=10u
MI0 net14 IN1 VDD ptft W=400u L=10u
.ENDS

