* File: NOR2D1.pex.netlist.pex
* Created: Sat Dec 13 11:17:11 2025
* Program "Calibre xRC"
* Version "v2023.1_18.8"
* Nominal Temperature: 25C
* Circuit Temperature: 25C
* 
.subckt PM_NOR2D1_net11 4 5 10 11 21 37 38 39 40
r25 51 53 0.2952
r26 49 51 0.2952
r27 47 49 0.738
r28 45 47 0.2952
r29 42 45 0.2952
r30 35 53 1
r31 30 37 1.61792
r32 29 35 0.156299
r33 28 30 0.252919
r34 28 29 2.03688
r35 27 51 1
r36 24 49 1
r37 24 27 0.2952
r38 22 35 0.104199
r39 22 27 0.2214
r40 21 47 1
r41 19 45 1
r42 19 21 2.73701
r43 17 42 1
r44 17 19 2.73701
r45 17 38 3.42127
r46 13 38 2.05276
r47 11 40 20.306
r48 10 11 20.3052
r49 7 21 8.18375
r50 7 10 20.3052
r51 5 39 20.306
r52 4 5 20.3052
r53 1 13 8.18375
r54 1 4 20.3052
.ends

.subckt PM_NOR2D1_VSS 1 4 27 34 35 36
r2 38 43 0.316286
r3 31 43 1
r4 29 43 1
r5 29 31 0.15269
r6 27 34 1.02185
r7 26 43 1
r8 26 29 0.15269
r9 26 27 0.251086
r10 20 36 0.726911
r11 15 35 13.0535
r12 12 38 1
r13 9 38 1
r14 7 38 1
r15 7 9 2.6107
r16 5 15 0.766616
r17 5 7 3.26338
r18 4 20 6.52675
r19 4 12 13.0535
r20 1 12 0.365498
r21 1 9 2.2452
.ends

.subckt PM_NOR2D1_net10 1 6 10 11 15 20 24 25 29 34 38 39 44 45 46 47 48 49
r64 39 49 20.306
r65 38 39 20.3052
r66 35 43 6.97267
r67 35 38 20.3052
r68 33 34 20.3052
r69 33 48 20.3052
r70 29 43 6.97267
r71 29 34 20.306
r72 28 42 4.89506
r73 27 43 0.353334
r74 27 28 16.3169
r75 25 47 20.306
r76 24 25 20.3052
r77 21 42 8.70233
r78 21 24 20.3052
r79 19 20 20.3052
r80 19 46 20.3052
r81 15 42 8.70233
r82 15 20 20.306
r83 14 41 0.353334
r84 13 42 4.89506
r85 13 14 16.3169
r86 11 45 20.306
r87 10 11 20.3052
r88 7 41 6.97267
r89 7 10 20.3052
r90 5 6 20.3052
r91 5 44 20.3052
r92 1 41 6.97267
r93 1 6 20.306
.ends

.subckt PM_NOR2D1_VDD 1 6 11 14 19 23 28 31 36 43 44 45 46
r44 35 36 20.3052
r45 35 46 20.3052
r46 31 42 1.43649
r47 31 36 20.306
r48 30 41 5.52744
r49 29 42 5.52744
r50 29 30 21.7558
r51 27 28 20.3052
r52 27 45 20.3052
r53 23 41 1.43649
r54 23 28 20.306
r55 21 40 5.52744
r56 20 41 5.52744
r57 18 19 20.3052
r58 18 44 20.3052
r59 14 40 1.43649
r60 14 19 20.306
r61 13 39 5.52744
r62 12 40 5.52744
r63 12 13 21.7558
r64 10 11 20.3052
r65 10 43 20.3052
r66 6 39 1.43649
r67 6 11 20.306
r68 1 20 31.3284
r69 1 21 20.8856
.ends

.subckt PM_NOR2D1_OUT 1 5 6 11 12 17 18 19
r23 12 19 20.306
r24 11 12 20.3052
r25 8 11 20.3052
r26 6 17 20.306
r27 5 6 20.3052
r28 2 5 20.3052
r29 1 2 11.2517
r30 1 8 11.2517
r31 1 18 5.62116
.ends

.subckt PM_NOR2D1_net12 1 6 10 11 15 20 24 25 29 34 38 39 44 45 46 47 48 49
r62 39 49 20.306
r63 38 39 20.3052
r64 35 43 6.97267
r65 35 38 20.3052
r66 33 34 20.3052
r67 33 48 20.3052
r68 29 43 6.97267
r69 29 34 20.306
r70 28 42 4.89506
r71 27 43 0.353334
r72 27 28 16.3169
r73 25 47 20.306
r74 24 25 20.3052
r75 21 42 8.70233
r76 21 24 20.3052
r77 19 20 20.3052
r78 19 46 20.3052
r79 15 42 8.70233
r80 15 20 20.306
r81 14 41 0.353334
r82 13 42 4.89506
r83 13 14 16.3169
r84 11 45 20.306
r85 10 11 20.3052
r86 7 41 6.97267
r87 7 10 20.3052
r88 5 6 20.3052
r89 5 44 20.3052
r90 1 41 6.97267
r91 1 6 20.306
.ends

.subckt PM_NOR2D1_IN2 1 9 12 15 16 18 24 26 28 31 32 34 40 42 45 46 48 51 52 54
+ 60 62 64 67 68 70 72 76 78 105 106 107 108 109 110 111 112
r105 77 78 0.62445
r106 77 112 0.62445
r107 76 112 0.624484
r108 75 76 0.62445
r109 72 78 0.624484
r110 71 75 0.62445
r111 69 70 0.62445
r112 69 111 0.62445
r113 68 111 0.624484
r114 67 68 0.62445
r115 64 72 0.8856
r116 64 70 0.624484
r117 63 71 0.8856
r118 63 67 0.62445
r119 61 62 0.62445
r120 61 110 0.62445
r121 60 110 0.624484
r122 59 60 0.62445
r123 56 64 0.8856
r124 56 62 0.624484
r125 55 63 0.8856
r126 55 59 0.62445
r127 53 54 0.62445
r128 53 109 0.62445
r129 52 109 0.624484
r130 51 52 0.62445
r131 48 56 0.8856
r132 48 54 0.624484
r133 47 55 0.8856
r134 47 51 0.62445
r135 45 48 0.28782
r136 45 46 1.85976
r137 43 47 0.28782
r138 43 44 1.85976
r139 41 42 0.62445
r140 41 108 0.62445
r141 40 108 0.624484
r142 39 40 0.62445
r143 36 46 0.28782
r144 36 42 0.624484
r145 35 44 0.28782
r146 35 39 0.62445
r147 33 34 0.62445
r148 33 107 0.62445
r149 32 107 0.624484
r150 31 32 0.62445
r151 28 36 0.8856
r152 28 34 0.624484
r153 27 35 0.8856
r154 27 31 0.62445
r155 25 26 0.62445
r156 25 106 0.62445
r157 24 106 0.624484
r158 23 24 0.62445
r159 20 28 0.8856
r160 20 26 0.624484
r161 19 27 0.8856
r162 19 23 0.62445
r163 17 18 0.62445
r164 17 105 0.62445
r165 16 105 0.624484
r166 15 16 0.62445
r167 12 20 0.8856
r168 12 18 0.624484
r169 11 19 0.8856
r170 11 15 0.62445
r171 9 12 0.28782
r172 9 10 0.92988
r173 6 11 0.28782
r174 4 5 1.62359
r175 3 10 0.247405
r176 3 5 1.62361
r177 2 7 0.247405
r178 2 4 1.62359
r179 1 6 0.584496
r180 1 7 0.345384
.ends

.subckt PM_NOR2D1_IN1 1 6 11 12 15 16 18 24 26 27 28 31 32 34 40 42 43 44 47 48
+ 51 52 54 60 62 63 64 67 68 70 71 76 78 105 106 107 108 109 110 111 112
r109 77 78 0.62445
r110 77 112 0.62445
r111 76 112 0.624484
r112 75 76 0.62445
r113 72 78 0.624484
r114 71 75 0.62445
r115 69 70 0.62445
r116 69 111 0.62445
r117 68 111 0.624484
r118 67 68 0.62445
r119 64 72 0.8856
r120 64 70 0.624484
r121 63 71 0.8856
r122 63 67 0.62445
r123 61 62 0.62445
r124 61 110 0.62445
r125 60 110 0.624484
r126 59 60 0.62445
r127 56 64 0.8856
r128 56 62 0.624484
r129 55 63 0.8856
r130 55 59 0.62445
r131 53 54 0.62445
r132 53 109 0.62445
r133 52 109 0.624484
r134 51 52 0.62445
r135 48 56 0.8856
r136 48 54 0.624484
r137 47 55 0.8856
r138 47 51 0.62445
r139 45 48 0.28782
r140 45 46 1.85976
r141 43 47 0.28782
r142 43 44 1.85976
r143 41 42 0.62445
r144 41 108 0.62445
r145 40 108 0.624484
r146 39 40 0.62445
r147 36 46 0.28782
r148 36 42 0.624484
r149 35 44 0.28782
r150 35 39 0.62445
r151 33 34 0.62445
r152 33 107 0.62445
r153 32 107 0.624484
r154 31 32 0.62445
r155 28 36 0.8856
r156 28 34 0.624484
r157 27 35 0.8856
r158 27 31 0.62445
r159 25 26 0.62445
r160 25 106 0.62445
r161 24 106 0.624484
r162 23 24 0.62445
r163 20 28 0.8856
r164 20 26 0.624484
r165 19 27 0.8856
r166 19 23 0.62445
r167 17 18 0.62445
r168 17 105 0.62445
r169 16 105 0.624484
r170 15 16 0.62445
r171 12 20 0.8856
r172 12 18 0.624484
r173 11 19 0.8856
r174 11 15 0.62445
r175 8 12 0.28782
r176 6 11 0.28782
r177 6 7 0.92988
r178 4 5 1.62359
r179 3 9 0.247405
r180 3 5 1.62361
r181 2 7 0.247405
r182 2 4 1.62359
r183 1 8 0.478224
r184 1 9 0.451656
.ends

